US06673811B1
A solution of 3-Dimethylamino-2-(5-methyl-3-nitro-pyridin-2-yl]-acrylic acid ethyl ester (6.2 g, 0.022 mol) in ethanol (50 mL) is hydrogenated over 10% Pd-C at 50 psi for 48 h. The catalyst is removed by filtration through a pad of celite, and the solvent evaporated under vacuum. The residue is chromatographed over silica gel eluting with 7% MeOH-DCM containing few drops of NH4OH to afford 1-Hydroxy-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester 1H NMR (300 MHz, DMSO-d6) δ 1.25 (t, J=6.6 Hz, 3H), 4.21 (q, J=6.6 Hz, 2H), 7.59 (s, 1H), 8.15 (s, 1H), 8.29 (s, 1H); LRMS Calcd 220.2; found 221.12.

reactant | 3-Dimethylamino-2-(5-methyl-3-nitro-pyridin-2-yl]-acrylic acid ethyl ester | 0.022 mol, 6.2 g | C(C)OC(C(=CN(C)C)C1=NC=C(C=C1[N+](=O)[O-])C)=O | C13H17N3O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd-C | [Pd] | Pd
product | 1-Hydroxy-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(C=2C1=NC=C(C2)C)O | C11H12N2O3
